US04762840
A solution of 3 g of 2-oxo-4-phenyl-2H-pyrimido[2,1-b]benzothiazole-8-acetic acid in 40 ml of tetrahydrofuran and 2 g of 1,1'-carbonyldiimidazole were admixed. The mixture was stirred at room temperature for 1 hour until dissolution took place. Excess dimethylamine (30% in ethanol) was added and the mixture was stirred for a further 40 minutes. The solvent was then removed under vacuo and the residue was taken up in dichloromethane and washed with water, bicarbonate solution water then dried over MgSO4, filtered and evaporated to dryness to obtain 1.1 g of N,N-dimethyl-2-oxo-4-phenyl-2H-pyrimido[2,1-b]benzothiazole-8-acetamide as a pale buff solid which was purified by flash chromatography on silica. It had a melting point of 238°-40° C.

reactant | 2-oxo-4-phenyl-2H-pyrimido[2,1-b]benzothiazole-8-acetic acid | 3 g | O=C1N=C2SC3=C(N2C(=C1)C1=CC=CC=C1)C=CC(=C3)CC(=O)O | C18H12N2O3S
reactant | 1,1'-carbonyldiimidazole | 2 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dimethylamine | CNC | C2H7N
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | N,N-dimethyl-2-oxo-4-phenyl-2H-pyrimido[2,1-b]benzothiazole-8-acetamide | 1.1 g | CN(C(CC1=CC2=C(N3C(S2)=NC(C=C3C3=CC=CC=C3)=O)C=C1)=O)C | C20H17N3O2S
